data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2693,2992,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([CH3:25])[N+:26]([CH3:27])=[C:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:28]([C:29]#[N:30])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:26]([CH3:27])[C:24]2([C:22]([O:21][CH3:20])=[O:23])[CH3:25],water,298.15,31.22393716832181,8.85295317164625
4395,5022,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:18]([C:19](=[O:20])[O:21][CH3:22])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,30.29706861364028,-21.741218166242795
2636,2923,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][C-:28]([C:29]#[N:30])[NH+:31]=[CH:32][c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:31][C:28]2([CH3:27])[C:29]#[N:30],water,298.15,11.45334970071223,-32.78351922433243
3098,3488,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[NH+:14][O-:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[O:15][NH:14][C:12]1([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,28.58768284765642,4.3882979400926905
4309,4929,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]#[C:19][C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]=[C:19]2[C:20](=[O:21])[O:22][CH3:23],water,298.15,21.402492313407222,-25.01464201387236
2934,3271,[CH2:7]=[NH+:8][C-:9]([CH3:10])[CH3:11].[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH2:7][NH:8][C:9]1([CH3:10])[CH3:11],water,298.15,9.471126745435184,-27.589966465587143
22,25,[CH3:7][C:8](=[O:9])[N-:10][O+:11]=[N:12][C:13]#[N:14].[CH:1]#[C:2][C:3](=[O:4])[O:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[O:5][CH3:6])[N:10]([C:8]([CH3:7])=[O:9])[O:11][N:12]1[C:13]#[N:14],water,298.15,5.025011958494998,-70.4820678722588
4851,5533,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[O:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,15.018946923334054,-41.898189809586455
450,492,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][O-:20].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[O:20][O:19][C:17]2([C:15]([O:14][CH3:13])=[O:16])[CH3:18],water,298.15,17.257153850938224,-34.95432757752542
3698,4221,[CH2-:5][N+:6]([CH3:7])=[C:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1]/[CH:2]=[CH:3]\[CH3:4]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH2:5][N:6]([CH3:7])[C:8]1([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,19.102045430823807,-31.7515008801014
4821,5503,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[c:15](=[O:16])[o:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][C:18]1([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:25]2[CH3:26],water,298.15,33.972623463737804,4.379993099905069
1520,1676,[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][c-:12]1[nH+:13][c:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[o:21][c:22]1=[O:23]>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[NH:13][C:12]2([C:11]#[N:10])[C:22](=[O:23])[O:21]1,water,298.15,35.92811574030203,6.929141921496438
